US04526725
A standard 1-liter esterification system was charged with 111 g of phthalic anhydride, 284 g of isodecyl alcohol and 0.5 g of catalyst ATC-II. The system was heated to reflux and the temperature was maintained at 210° C. at reduced pressure. At the end of 1.25 hours the water of reaction was collected and the acid number of the residue was measured to be 0.03 mg KOH/g. Heating was discontinued and excess alcohol removed as the pressure was reduced to 100 torr. Adjusting the temperature to 150° C., hydrolysis of the catalyst and removal of remaining alcohol was accomplished by steam distillation using 40 ml water during 35 minutes at 150° C. and 100 torr. After drying for 15 minutes at these conditions the cloudy crude product was cooled to 90° C. and filtered through a No. 1 Whatman paper to yield a clear residue product diisodecyl phthalate (DIDP) (nD25 =1.4850) having an acid number of 0.04 mg KOH/g and a color of 15 APHA.

reactant | phthalic anhydride | 111 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | isodecyl alcohol | 284 g | C(CCCCCCC(C)C)O | C10H22O
solvent | water | O | H2O
product | diisodecyl phthalate | C(C=1C(C(=O)OCCCCCCCC(C)C)=CC=CC1)(=O)OCCCCCCCC(C)C | C28H46O4
